US06476030B1
7-(2-Fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-3-(pyridin-2-yl)pyrazolo[1,5-d][1,2,4]triazine
A mixture of 3-bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine (81.8 mg, 0.202 mmol) and 2-(tributylstannyl)pyridine (0.1520 g, 0.413 mmol) in anhydrous 1,4-dioxane (8 ml) was degassed using three freeze-pump-thaw cycles. Tetrakis(triphenylphosphine)palladium(0) (32.5 mg, 0.0281 mmol) and copper(I) iodide (4.5 mg, 0.024 mmol) were added and the mixture was further degassed with one freeze-pump-thaw cycle before heating at 100° C. under nitrogen for 18 h. The mixture was filtered through glass fibre paper, washing well with ethyl acetate (25 ml). The filtrate was washed with saturated aqueous NaCl (10 ml), and the aqueous layer was further extracted with ethyl acetate (25 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified bar flash chromatography (silica gel, 4% MeOH/CH2Cl2 and silica gel, 0-4% MeOH/EtOAc) to give 62.4 mg (77%) of the title compound as a white solid, mp=186-187° C. (CH2Cl2-EtOAc); 1H NMR (400 MHz, CDCl3) δ 3.79 (3H, s), 5.61 (2H, s), 7.20 (1H, m), 7.29 (1H, t, J=9.4 Hz), 7.40 (1H, td, J=7.6 and 0.8 Hz), 7.64 (1H, mn), 7.73 (1H, td, J=7.8 and 1.8 Hz), 7.80 (1H, m), 7.89 (1H, s), 7.94 (1H, d, J=8.0 Hz), 8.70 (1H, m), 10.30 (1H, s); MS (ES+) m/e 403 [MH]+. Anal. Found C, 59.76; H, 3.65; N, 27.65%. C20H15FN8O requires C, 59.70; H, 3.76; N, 27.85%.

reactant | 3-bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine | 0.202 mmol, 81.8 mg | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC=2N(N=CN2)C | C15H11BrFN7O
reactant | 2-(tributylstannyl)pyridine | 0.413 mmol, 0.1520 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0281 mmol, 32.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.024 mmol, 4.5 mg | [Cu]I
product | 7-(2-Fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-3-(pyridin-2-yl)pyrazolo[1,5-d][1,2,4]triazine | 62.4 mg, 77% | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2C2=NC=CC=C2)OCC=2N(N=CN2)C | C20H15FN8O
